US09227928B2
Hydroquinone (20 g, 0.1816 mol) and n-heptane (60 mL) was taken in a round bottom flask, after cooling the flask to about 10-15° C., sulfuric acid (36 N, 17.8 g) was added dropwise at the same temperature and stirring continued further for about 10-15 min. The temperature was slowly raised to 50-60° C. then stirred for 3-8 h. The reaction mass was then cooled to 25-35° C., n-heptane was decanted and ethyl acetate (200 mL) added to dissolve the solid formed. A solution of potassium 2-ethylhexanoate (36.4 g, 0.1996 mol) in ethyl acetate (200 mL) was added slowly. The reaction was further stirred for an hour. The precipitated crude solid was filtered, washed with ethyl acetate to give 40 g of 2,5-dihydroxybenzenesulfonic acid potassium salt.

reactant | Hydroquinone | 0.1816 mol, 20 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | n-heptane | 60 mL | CCCCCCC | C7H16
reactant | sulfuric acid | 36 N, 17.8 g | S(O)(O)(=O)=O | H2O4S
reactant | potassium 2-ethylhexanoate | 0.1996 mol, 36.4 g | C(C)C(C(=O)[O-])CCCC.[K+]
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 2,5-dihydroxybenzenesulfonic acid potassium salt | 40 g | [K+].OC1=C(C=C(C=C1)O)S(=O)(=O)[O-] | InChI=1S/C6H6O5S.K/c7-4-1-2-5(8)6(3-4)12(9,10)11;/h1-3,7-8H,(H,9,10,11);/q;+1/p-1
